US06878704B2
A suspension of 4-quinolone-3-carboxylic acid (189 mg) in dichloromethane (5 ml) was treated with 1 drop DMF and oxalyl chloride (0.2 ml), stirred 1.5 hours and the solvent evaporated. The residue was briefly put under vacuum to provide 4-chloroquinoline-3-carbonyl chloride as a white solid.

reactant | 4-quinolone-3-carboxylic acid | 189 mg | N1=CC(C(C2=CC=CC=C12)=O)C(=O)O | C10H7NO3
reactant | oxalyl chloride | 0.2 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
catalyst | DMF | 1 drop | CN(C)C=O | C3H7NO
product | 4-chloroquinoline-3-carbonyl chloride | ClC1=C(C=NC2=CC=CC=C12)C(=O)Cl | C10H5Cl2NO
